US07517996B2
(Step A-3) Synthesis of methyl 3-p-tolyl-isoxazole-4-carboxylate
N-Chlorosuccinimide (9.87 g, 73.4 mmol) and pyridine (175 mg, 2.2 mmol) were dissolved in chloroform (100 ml), 4-methylbenzaldehyde oxime (10 g, 73.4 mmol) was added, and the mixture was stirred until it became clear. A solution of 2-methoxycarbonylvinyl 4-nitrobenzoate (9.22 g, 36.7 mmol) and triethylamine (12.9 g, 128 mmol) in chloroform (180 ml) was slowly added dropwise at 0° C. over 2 hours, and the mixture was stirred overnight at room temperature. Saturated aqueous sodium hydrogencarbonate solution was added, and the mixture was extracted with dichloromethane. The extract was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by column chromatography (hexane:ethyl acetate=5:95) to give the title compound (1.56 g, 7.19 mmol, 19.6%).

reactant | N-Chlorosuccinimide | 73.4 mmol, 9.87 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | pyridine | 2.2 mmol, 175 mg | N1=CC=CC=C1 | C5H5N
reactant | 4-methylbenzaldehyde oxime | 73.4 mmol, 10 g | CC1=CC=C(C=NO)C=C1 | C8H9NO
reactant | 2-methoxycarbonylvinyl 4-nitrobenzoate | 36.7 mmol, 9.22 g | [N+](=O)([O-])C1=CC=C(C(=O)OC=CC(=O)OC)C=C1 | C11H9NO6
reactant | triethylamine | 128 mmol, 12.9 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 180 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 3-p-tolyl-isoxazole-4-carboxylate | 7.19 mmol, 1.56 g, 19.6% | C1(=CC=C(C=C1)C1=NOC=C1C(=O)OC)C | C12H11NO3
